US06911458B2
N-(2-Oxiranylmethoxy-phenyl)-benzamide
To a stirred solution of N-(2-Hydroxy-phenyl)-benzamide (0.81 g, 3.80 mmol), and cesium carbonate (1.61 g, 4.94 mmol) in acetonitrile was added epibromohydrin (0.63 ml, 7.60 mmol). After 4 hours the reaction mixture was partitioned between dichloromethane and water. After evaporation of the organic solvent the residue was crystallised from petroleum ether and diethyl ether yielding (0.741 g, 73%).

reactant | N-(2-Hydroxy-phenyl)-benzamide | 3.80 mmol, 0.81 g | OC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C13H11NO2
reactant | cesium carbonate | 4.94 mmol, 1.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | epibromohydrin | 7.60 mmol, 0.63 ml | C(Br)C1CO1 | C3H5BrO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Oxiranylmethoxy-phenyl)-benzamide | O1C(C1)COC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C16H15NO3
